US04927827
To 4-chloro-2-(6-p-ethoxyphenyloxy-2-pyridinyl)-6-methylpyrimidine (3 g) was added sodium methoxide prepared from methanol (10 ml) and metallic sodium (0.22 g). After the mixture was left to stand at room temperature for 30 minutes, water (30 ml) and chloroform (100 ml) were added thereto, and then extracted. After the extract was dried over anhydrous magnesium sulfate, it was concentrated under reduced pressure to obtain 2-(6-p-ethoxyphenyloxy-2-pyridinyl)-4-methoxy-6-methylpyrimidine (2.7 g, yield 91%).

reactant | 4-chloro-2-(6-p-ethoxyphenyloxy-2-pyridinyl)-6-methylpyrimidine | 3 g | ClC1=NC(=NC(=C1)C)C1=NC(=CC=C1)OC1=CC=C(C=C1)OCC | C18H16ClN3O2
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 10 ml | CO | CH4O
reactant | sodium | 0.22 g | [Na] | Na
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 30 ml | O | H2O
product | 2-(6-p-ethoxyphenyloxy-2-pyridinyl)-4-methoxy-6-methylpyrimidine | 2.7 g, yield 91% | C(C)OC1=CC=C(C=C1)OC1=CC=CC(=N1)C1=NC(=CC(=N1)OC)C | C19H19N3O3
